*****************************************************************
* NXP PSMN6R3-120ES
*
* Polarity N-Channel
* Ratings 120V/6.700000E-003OHMS/70A
*
* Date Created Tue May 14 02:40:56 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN6R3-120ES DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00017

RDS 7 4 120000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00501226956146678 TC=0.0107485939270048,1.96201145335485E-05
RBD 9 4 0.00126758504498512 TC=0.0107485939270048,1.96201145335485E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 9.67598941543345e-09
RG 1 2 0.865233761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -1	7213.9
+ -0.5	5995.27
+ -0.2	5118.4
+ -0.1	5093.69
+ 0	4676.2662
+ 0.1	3919.0076
+ 0.2	3913.6672
+ 0.5	3107.8328
+ 1	2521.9356
+ 2	1773.9744
+ 3	1465.2676
+ 4	1284.2516
+ 5	1155.4224
+ 6	1057.47232
+ 8	919.631
+ 10	828.62764
+ 12	760.28704
+ 15	684.61468
+ 20	598.26176
+ 30	494.39552
+ 50	388.964
+ 60	357.69184



.MODEL MINT NMOS(Vto=3.76539122933556 Kp=2.752372e+002 Nfs=750000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=128 Ibv=2.500000E-004 Rs=1E-6 Is=7.19373145450736e-12
+ N=1 M=0.66 VJ=0.5 Fc=0.5 Cjo=3.3090316e-09 Tt=5.7568e-08)

.ENDS